US05821239
4-[[(Diisopropylamino)methylene]amino]-3-pyridinol N,N-dimethyl carbamate
To a stirred mixture of 4-[[(diisopropylamino)methylene]amino]-3-pyridinol (1.06 g) and triethylamine (1.0 ml) in 25 ml dry Et2O was added dimethyl carbamyl chloride (0.53 ml). The mixture was stirred at room temperature for 2 hours, after which no starting material remained as seen by TLC (silica, 10:90 CH3OH:CH2Cl2). The mixture was diluted with 25 ml Et2O, filtered, washed with Et2O, and the filtrate concentrated in vacuo and chromatography on silica using EtOAc eluent. The fractions containing desired product were combined and concentrated to provide 500 mg of pure product. Another run was carried out in the same manner as above using 740 mg of starting material. The products from both runs were combined. Recrystallization attempts failed, and the product was dried in vacuo to provide 790 mg of a white solid, m.p. 76°-79° C.

reactant | 4-[[(diisopropylamino)methylene]amino]-3-pyridinol | 1.06 g | C(C)(C)N(C(C)C)C=NC1=C(C=NC=C1)O | C12H19N3O
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl carbamyl chloride | 0.53 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | CH3OH | CO | CH4O
solvent | Et2O | 25 ml | CCOCC | C4H10O
solvent | Et2O | 25 ml | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[[(Diisopropylamino)methylene]amino]-3-pyridinol N,N-dimethyl carbamate | 500 mg | CN(C(=O)OC=1C=NC=CC1N=CN(C(C)C)C(C)C)C | C15H24N4O2
